US07968552B2
A mixture of 3-[(3′-formyl-2,2′-dimethylbiphenyl-4-yl)oxy]-1,1-dimethylpropyl acetate (479 mg), 2-(4-aminobenzyl)-1,2,4-oxadiazolidine-3,5-dione (340 mg) and acetic acid (6 ml) was stirred at room temperature for 20 hours. Sodium triacetoxyborohydride (573 mg) was added to the reaction solution, followed by stirring at room temperature for 2 hours. After evaporation of the solvent under a reduced pressure, water was added to the residue, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate), and a mixture of the resulting pale yellow foamy substance (719 mg), THF (5 ml), methanol (5 ml) and a 1 M sodium hydroxide aqueous solution (4 ml) was stirred at 50° C. for 4 hours. The pH was made to 4 to 5 by adding 1 M hydrochloric acid, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate), and a 1 M sodium hydroxide aqueous solution (0.89 ml) was added to a mixture of the resulting pale yellow oil (448 mg), THF (3 ml) and methanol (3 ml), followed by stirring for 10 minutes. After evaporation of the solvent under a reduced pressure, the resulting residue was washed with diethyl ether to obtain sodium 2-[4-({[4′-(3-hydroxy-3-methylbutoxy)-2,2′-dimethylbiphenyl-3-yl]methyl}amino)benzyl]-3,5-dioxo-1,2,4-oxadiazolidin-4-ide (398 mg) as a white solid.

reactant | 3-[(3′-formyl-2,2′-dimethylbiphenyl-4-yl)oxy]-1,1-dimethylpropyl acetate | 479 mg | C(C)(=O)OC(CCOC1=CC(=C(C=C1)C1=C(C(=CC=C1)C=O)C)C)(C)C | C22H26O4
reactant | 2-(4-aminobenzyl)-1,2,4-oxadiazolidine-3,5-dione | 340 mg | NC1=CC=C(CN2OC(NC2=O)=O)C=C1 | C9H9N3O3
reactant | Sodium triacetoxyborohydride | 573 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | sodium 2-[4-({[4′-(3-hydroxy-3-methylbutoxy)-2,2′-dimethylbiphenyl-3-yl]methyl}amino)benzyl]-3,5-dioxo-1,2,4-oxadiazolidin-4-ide | 398 mg | OC(CCOC1=CC(=C(C=C1)C1=C(C(=CC=C1)CNC1=CC=C(CN2OC([N-]C2=O)=O)C=C1)C)C)(C)C.[Na+] | InChI=1S/C29H33N3O5.Na/c1-19-16-24(36-15-14-29(3,4)35)12-13-25(19)26-7-5-6-22(20(26)2)17-30-23-10-8-21(9-11-23)18-32-27(33)31-28(34)37-32;/h5-13,16,30,35H,14-15,17-18H2,1-4H3,(H,31,33,34);/q;+1/p-1
